US07494589B2
1. Preparation of Benzidine bis-diazoderivative
Benzidine.2HCl (26 mg) was dissolved in 4.5 ml 0.2N HCl, added with 18 mg NaNO2 dissolved in 0.5 ml distilled water. The reaction was carried out in an ice bath under stirring for 1 hr; an orange colour immediately developed.

reactant | Benzidine.2HCl | 26 mg | C1=CC(=CC=C1C2=CC=C(C=C2)N)N.Cl.Cl
reactant | NaNO2 | 18 mg | N(=O)[O-].[Na+]
solvent | HCl | 0.2N, 4.5 ml | Cl | ClH
product | Benzidine | C1(=CC=C(N)C=C1)C1=CC=C(N)C=C1 | C12H12N2
